US05853906
Into three neck round bottom flask (5 L) equipped with a mechanical stirrer, a condenser, and an addition funnel, were added p-toluidine (995 grams, 9.3 mol) and hexanes (1.6 L). Acetic anhydride (960 mL, 10.2 mol) was added dropwise for 2 hour enough to reflux. Then it was refluxed for 1 hour and cooled to room temperature to give a brown solid. This was collected by suction filtration, transferred into a beaker, and washed with water (2 L) for 30 minutes. The filtration and washing procedures were repeated. The wet white crystals was air dried for 7 days to N-(4-Methylphenyl)acetamide (1,343 g, 97% yield). Melting point: 150-152° C. (Lit. 153° C., Merck Index 11, 67).

reactant | p-toluidine | 9.3 mol, 995 grams | NC1=CC=C(C=C1)C | C7H9N
reactant | Acetic anhydride | 10.2 mol, 960 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(4-Methylphenyl)acetamide | 1,343 g, 97% yield | CC1=CC=C(C=C1)NC(C)=O | C9H11NO
